US07662831B2
Following the procedure of Example 1, Step 4, 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine (0.12 g, 0.50 mmol), trimethylacetyl chloride (0.065 mL, 0.52 mmol) and poly-(4-vinylpyridine) (700 mg) in dichloromethane (10 mL) provided 0.11 g of N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-yl-2,2-dimethylpropanamide. MS (ESI) m/z 325; HPLC purity major: no impurities detected at 210-370 nm window; 99.5% at 246 nm (max. abs), RT=10.7 (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C21H28N2O+H+, 325.22744; found (ESI, [M+H]+), 325.2271.

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | 0.50 mmol, 0.12 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)N | C16H20N2
reactant | trimethylacetyl chloride | 0.52 mmol, 0.065 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-yl-2,2-dimethylpropanamide | 0.11 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)NC(C(C)(C)C)=O | C21H28N2O
